US05589473
To a solution of 15 g of 2-formyl-3-hydroxy -5-methoxy-6-methylbenzoic acid allyl ester in 0.12 l of N,N-dimethylformamide were added 13.8 g of tert-butyl-dimethylchlorosilane and 12.0 g of triethylamine. The mixture was stirred for 3 h at room temperature and then evaporated in vacuo. The residue was taken up in 0.4 l of ethyl acetate and the solution was washed successively with 1N hydrochloric acid, water and brine. The organic layer was dried over sodium sulfate. The solvent was evaporated in vacuo and the solid residue was recrystallized from hexane to give 20.5 g of 2-formyl-3-(tert-butyl-dimethylsilanyloxy)-5-methoxy-6-methylbenzoic acid allyl ester as white crystals of m.p. 94°-95° C.

reactant | 2-formyl-3-hydroxy -5-methoxy-6-methylbenzoic acid allyl ester | 15 g | C(C=C)OC(C1=C(C(=CC(=C1C)OC)O)C=O)=O | C13H14O5
reactant | tert-butyl-dimethylchlorosilane | 13.8 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | triethylamine | 12.0 g | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 0.12 l | CN(C=O)C | C3H7NO
product | 2-formyl-3-(tert-butyl-dimethylsilanyloxy)-5-methoxy-6-methylbenzoic acid allyl ester | 20.5 g | C(C=C)OC(C1=C(C(=CC(=C1C)OC)O[Si](C)(C)C(C)(C)C)C=O)=O | C19H28O5Si
